US09370522B2
The ester product was obtained via a Suzuki coupling reaction using the method previously shown in Example 13, Step 6. Methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (100 mg, 0.34 mmol, 1.00 equiv) and p-tolylboronic acid (54 mg, 0.4 mmol, 1.10 equiv) were used as starting materials and chromatography was performed with ethyl acetate/petroleum ether (1:20) as the eluent, affording 90 mg (76%) of methyl 2-phenyl-3-p-tolylquinoxaline-6-carboxylate as a yellow solid.

reactant | Methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.34 mmol, 100 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | p-tolylboronic acid | 0.4 mmol, 54 mg, 1.10 equiv | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
product | methyl 2-phenyl-3-p-tolylquinoxaline-6-carboxylate | 90 mg, 76% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)C)C(=O)OC | C23H18N2O2
